US07214694B2
Preparation 106: tert-butyl(3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (200 mg, 0.57 mmol) in THF (2 ml) was treated with methyl bromoacetate (55 μl, 0.57 mmol) and NMM (63 μl, 0.57 mmol) and stirred at room temperature, under a nitrogen atmosphere for 3 days. The reaction mixture was diluted with EtOAc and washed with H2O followed by brine, dried over anhydrous MgSO4 and filtered. The solvent was removed under reduced pressure. The crude material was purified on a silica column eluting with a solvent gradient of EtOAc:pentane (5:95) gradually changing to (50:50) to afford the title compound as a colourless oil (170 mg, 70%).

reactant | tert-butyl(3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.57 mmol, 200 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | methyl bromoacetate | 0.57 mmol, 55 μl | BrCC(=O)OC | C3H5BrO2
reactant | NMM | 0.57 mmol, 63 μl | CN1CCOCC1 | C5H11NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | 170 mg, 70% | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNCC(=O)OC | C22H37N3O5
